data/polar.json
{"reaction_name": "Stevens rearrangement of ammonium ylides", "rsmi": "[cH:1]1[cH:6][cH:10][cH:7][cH:2][c:8]1[CH2:9][N+:11]([CH2-:3])([CH3:4])[CH3:5]>>[cH:1]1[cH:6][cH:10][cH:7][cH:2][c:8]1[CH2:9][CH2:3][N:11]([CH3:4])[CH3:5]", "epd": [["LP-/Sigma+", [3], [3, 9]], ["Sigma-/LP+", [9, 11], [11]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:2]([N+:4]12[CH2:11][CH2:21][N+:10]([F:3])([CH2:22][CH2:12]1)[CH2:23][CH2:13]2)[Cl:24].[cH:1]1[cH:14][cH:26][c:7]([S:30](=[O:8])(=[O:9])[CH:16]=[C:28]2[CH:5]=[CH:19][C:29](=[N+:25]([O-:17])[O-:18])[CH:20]=[CH:6]2)[cH:27][cH:15]1>>[CH2:2]([N+:4]12[CH2:11][CH2:21][N:10]([CH2:22][CH2:12]1)[CH2:23][CH2:13]2)[Cl:24].[cH:1]1[cH:14][cH:26][c:7]([S:30](=[O:8])(=[O:9])[CH:16]([F:3])[c:28]2[cH:5][cH:19][c:29]([N+:25](=[O:17])[O-:18])[cH:20][cH:6]2)[cH:27][cH:15]1", "epd": [["LP-/Pi+", [17], [25, 17]], ["Pi-/Pi+", [29, 25], [20, 29]], ["Pi-/Pi+", [6, 20], [28, 6]], ["Pi-/Sigma+", [16, 28], [16, 3]], ["Sigma-/LP+", [3, 10], [10]]]}
{"reaction_name": "Silyl ketene acetal addition", "rsmi": "[O:8]=[CH:11][CH3:9].[Si:1]([CH3:3])([CH3:4])([CH3:5])[O:7][C:12](=[CH2:2])[O:10][CH3:6]>>[CH2:2]([CH:11]([O-:8])[CH3:9])[C:12](=[O:7])[O:10][CH3:6].[Si+:1]([CH3:3])([CH3:4])[CH3:5]", "epd": [["LP-/Pi+", [7], [7, 12]], ["Pi-/Sigma+", [2, 12], [2, 11]], ["Pi-/LP+", [8, 11], [8]], ["Sigma-/LP+", [1, 7], [7]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[c:18]([N:13]([CH3:25])[CH3:26])[cH:2][cH:31][c:15]([CH:3]=[C:21]2[CH:6]=[CH:10][CH:11]=[CH:7]2)[cH:30]1.[cH:4]1[cH:5][cH:20][cH:9][c:12]2[c:8]1[N+:27]([CH3:16])=[CH:19][C:17]2=[CH:14][c:24]1[cH:22][cH:28][cH:32][cH:29][cH:23]1>>[CH:1]1=[CH:30][C:15](=[CH:3][C:21]2=[CH:7][CH:11]=[CH:10][CH:6]2[CH:14]([c:17]2[c:12]3[c:8]([cH:4][cH:5][cH:20][cH:9]3)[n:27]([CH3:16])[cH:19]2)[c:24]2[cH:22][cH:28][cH:32][cH:29][cH:23]2)[CH:31]=[CH:2][C:18]1=[N+:13]([CH3:25])[CH3:26]", "epd": [["LP-/Pi+", [13], [18, 13]], ["Pi-/Pi+", [1, 18], [30, 1]], ["Pi-/Pi+", [15, 30], [3, 15]], ["Pi-/Pi+", [21, 3], [7, 21]], ["Pi-/Pi+", [11, 7], [10, 11]], ["Pi-/Sigma+", [6, 10], [6, 14]], ["Pi-/Pi+", [14, 17], [17, 19]], ["Pi-/LP+", [19, 27], [27]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[N:5]1([c:11]2[c:38]([CH3:13])[cH:30][c:22]([CH3:19])[cH:33][c:41]2[CH3:16])[CH:29]=[CH:28][N:6]([c:12]2[c:39]([CH3:14])[cH:31][c:23]([CH3:20])[cH:32][c:40]2[CH3:15])[C:42]1=[CH2:24].[O:1]=[S:27](=[O:2])([N:25]([F:21])[S:26](=[O:3])(=[O:4])[c:43]1[cH:7][cH:34][cH:17][cH:37][cH:10]1)[c:44]1[cH:8][cH:35][cH:18][cH:36][cH:9]1>>[O:1]=[S:27](=[O:2])([N-:25][S:26](=[O:3])(=[O:4])[c:43]1[cH:7][cH:34][cH:17][cH:37][cH:10]1)[c:44]1[cH:8][cH:35][cH:18][cH:36][cH:9]1.[n+:5]1(-[c:11]2[c:38]([CH3:13])[cH:30][c:22]([CH3:19])[cH:33][c:41]2[CH3:16])[cH:29][cH:28][n:6](-[c:12]2[c:39]([CH3:14])[cH:31][c:23]([CH3:20])[cH:32][c:40]2[CH3:15])[c:42]1[CH2:24][F:21]", "epd": [["LP-/Pi+", [5], [42, 5]], ["Pi-/Sigma+", [24, 42], [24, 21]], ["Sigma-/LP+", [21, 25], [25]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:1]([S:8][C:20]([F:12])([F:13])[F:14])[C:10]([CH3:18])([CH3:19])[c:23]1[cH:2][cH:16][cH:11][cH:17][cH:3]1.[cH:4]1[cH:6][c:7]2[c:24]([cH:15][cH:25]1)[CH:22]=[CH:5][CH:21]2[Li:9]>>[Li+:9].[O-:1][C:10]([CH3:18])([CH3:19])[c:23]1[cH:2][cH:16][cH:11][cH:17][cH:3]1.[cH:4]1[cH:6][c:7]2[c:24]([cH:15][cH:25]1)[CH:22]=[CH:5][CH:21]2[S:8][C:20]([F:12])([F:13])[F:14]", "epd": [["Sigma-/Sigma+", [21, 9], [21, 8]], ["Sigma-/LP+", [8, 1], [1]]]}
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[Br:1][Zn-:10]([Br:2])[CH:22]1[c:12]2[cH:4][cH:13][cH:9][cH:3][c:21]2[CH:11]=[CH:14]1.[cH:5]1[c:15]([CH+:29][c:16]2[cH:6][c:19]([F:25])[cH:28][c:20]([F:26])[cH:7]2)[cH:8][c:17]([F:23])[cH:27][c:18]1[F:24]>>[Br:1][Zn:10][Br:2].[cH:3]1[cH:9][cH:13][cH:4][c:12]2[c:21]1[CH:11]=[CH:14][CH:22]2[CH:29]([c:15]1[cH:5][c:18]([F:24])[cH:27][c:17]([F:23])[cH:8]1)[c:16]1[cH:6][c:19]([F:25])[cH:28][c:20]([F:26])[cH:7]1", "epd": [["Sigma-/Sigma+", [22, 10], [22, 29]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][C:9](=[C:2]=[N-:11])[c:12]1[cH:14][cH:17][cH:21][cH:18][cH:15]1.[O:3]=[N+:23]([O-:8])[c:19]1[cH:4][cH:6][c:10]([CH:20]=[CH:13][N+:16]([O-:22])=[O:24])[cH:7][cH:5]1>>[CH3:1][C:9]([C:2]#[N:11])([c:12]1[cH:14][cH:17][cH:21][cH:18][cH:15]1)[CH:20]([c:10]1[cH:6][cH:4][c:19]([N+:23](=[O:3])[O-:8])[cH:5][cH:7]1)[CH:13]=[N+:16]([O-:22])[O-:24]", "epd": [["LP-/Pi+", [11], [2, 11]], ["Pi-/Sigma+", [9, 2], [9, 20]], ["Pi-/Pi+", [20, 13], [13, 16]], ["Pi-/LP+", [16, 24], [24]]]}
